US05900475
Preparation of (b-chlorohexyl)dodecyldimethylammonium bromide
To a 500 mL, round-bottomed flask equipped with air condensers and magnetic stirring was charged N,N-dimethyldodecylamine (95.13 grams, 0.513 moles), 1-bromo-6-chlorohexane (102.40 grams, 0.513 moles) and tert-butylmethylether (200 mL). The reaction was maintained at 58° C. for 14 hours. During this time a white precipitate formed. The reaction was cooled to room temperature and tert-butylmethylether (350 mL) was added. Solids were collected by vacuum filtration The mother liquor was allowed to react further at 60° C. and solids were collected in a similar fashion. The combined solids were dried in a vacuum oven at 35° C. for 24 hours, yielding 127.36 grams.

reactant | N,N-dimethyldodecylamine | 0.513 moles, 95.13 grams | CN(C)CCCCCCCCCCCC | C14H31N
reactant | 1-bromo-6-chlorohexane | 0.513 moles, 102.40 grams | BrCCCCCCCl | C6H12BrCl
reactant | tert-butylmethylether | 350 mL | C(C)(C)(C)OC | C5H12O
reactant | tert-butylmethylether | 200 mL | C(C)(C)(C)OC | C5H12O
product | (b-chlorohexyl)dodecyldimethylammonium bromide | [Br-].ClC(C[N+](C)(C)CCCCCCCCCCCC)CCCC | InChI=1S/C20H43ClN.BrH/c1-5-7-9-10-11-12-13-14-15-16-18-22(3,4)19-20(21)17-8-6-2;/h20H,5-19H2,1-4H3;1H/q+1;/p-1
